US06160175
To a 3-neck flask fitted with a mechanical stirrer, 600 mL of pyridine (dried over molecular sieve), 100 g of 4-bromo-1-methylnaphthalene, 55.6 g of phenol, 83.7 g of potassium carbonate, 14.9 g of copper(I)chloride, and 2 g copper bronze was added. Under a nitrogen atmosphere, the mixture was refluxed for 72 hours with vigorous stirring. The reaction mixture was cooled and poured into cold dilute hydrochloric acid, and the resulting mixture was extracted with ethyl acetate. The organic layer was washed two times with cold dilute hydrochloric acid, dried over sodium sulfate, and filtered. After removing the solvent under vacuum, the product was flash chromatographed over silica gel with hexane elution. The product was further purified through fractional distillation, obtaining 35 g (33%) of the desired 1-methyl-4-phenoxynaphthalene intermediate at 150° C. at 0.075 torr.

reactant | 4-bromo-1-methylnaphthalene | 100 g | BrC1=CC=C(C2=CC=CC=C12)C | C11H9Br
reactant | phenol | 55.6 g | C1(=CC=CC=C1)O | C6H6O
reactant | potassium carbonate | 83.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | Cl | ClH
catalyst | copper(I)chloride | 14.9 g | [Cu]Cl
catalyst | copper bronze | 2 g | [Cu] | Cu
solvent | pyridine | 600 mL | N1=CC=CC=C1 | C5H5N
product | 1-methyl-4-phenoxynaphthalene | 35 g, 33% | CC1=CC=C(C2=CC=CC=C12)OC1=CC=CC=C1 | C17H14O
